data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH3:3][C:11]([CH3:4])([CH3:5])[c:34]1[cH:23][cH:39][cH:24][c:35]([C:12]([CH3:6])([CH3:7])[CH3:8])[c:27]1[N:38]1[C:20](=[CH:54][c:56]2[cH:46][cH:21][c:26]([N+:64](=[O:17])[O-:28])[cH:22][cH:47]2)[N:16]([c:29]2[c:42]([C:9]([CH3:48])([CH3:49])[CH3:50])[cH:40][cH:58][cH:41][c:43]2[C:10]([CH3:51])([CH3:52])[CH3:53])[N:63]=[C:45]1[c:25]1[cH:61][cH:30][cH:57][cH:31][cH:62]1.[c:1]12[c:14]([cH:36][cH:32][cH:59][cH:18]1)-[c:15]1[c:2]([cH:19][cH:60][cH:33][cH:37]1)[N+:55]2=[CH:13][CH3:44]>>[c:1]12[c:14]([c:15]3[c:2]([cH:19][cH:60][cH:33][cH:37]3)[n:55]1[CH:13]([CH3:44])[CH:54]([c:20]1[n+:16](-[c:29]3[c:42]([C:9]([CH3:48])([CH3:49])[CH3:50])[cH:40][cH:58][cH:41][c:43]3[C:10]([CH3:51])([CH3:52])[CH3:53])[n:63][c:45](-[c:25]3[cH:61][cH:30][cH:57][cH:31][cH:62]3)[n:38]1-[c:27]1[c:34]([C:11]([CH3:3])([CH3:4])[CH3:5])[cH:23][cH:39][cH:24][c:35]1[C:12]([CH3:6])([CH3:7])[CH3:8])[c:56]1[cH:46][cH:21][c:26]([N+:64](=[O:17])[O-:28])[cH:22][cH:47]1)[cH:36][cH:32][cH:59][cH:18]2", "epd": [["LP-/Pi+", [16], [16, 20]], ["Pi-/Sigma+", [20, 54], [13, 54]], ["Pi-/LP+", [13, 55], [55]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:1][CH2:31][O:35][C:15](=[O:8])[C-:17]([F:14])[C:16](=[O:7])[O:36][CH2:32][CH3:2].[O:3]=[S:19](=[O:4])([N:18]([S:13][C:9]([F:10])([F:11])[F:12])[S:20](=[O:5])(=[O:6])[c:34]1[cH:23][cH:29][cH:26][cH:30][cH:24]1)[c:33]1[cH:21][cH:27][cH:25][cH:28][cH:22]1>>[CH3:1][CH2:31][O:35][C:15](=[O:8])[C:17]([S:13][C:9]([F:10])([F:11])[F:12])([F:14])[C:16](=[O:7])[O:36][CH2:32][CH3:2].[O:3]=[S:19](=[O:4])([N-:18][S:20](=[O:5])(=[O:6])[c:34]1[cH:23][cH:29][cH:26][cH:30][cH:24]1)[c:33]1[cH:21][cH:27][cH:25][cH:28][cH:22]1", "epd": [["LP-/Sigma+", [17], [17, 13]], ["Sigma-/LP+", [13, 18], [18]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:8][c:30]1[cH:23][c:17](=[O:25])[n:32]([CH3:14])[c:27](=[O:13])[n:34]1[CH3:26].[O:1]=[S:35](=[O:2])([c:16]1[cH:4][cH:10][c:21]([CH3:36])[cH:11][cH:5]1)[n:22]1[cH:15][c:19]([N+:18](=[O:6])[O-:7])[c:20]2[cH:9][cH:28][c:12]([N+:33](=[O:29])[O-:31])[cH:3][c:24]21>>[O:1]=[S:35](=[O:2])([c:16]1[cH:4][cH:10][c:21]([CH3:36])[cH:11][cH:5]1)[N:22]1[CH:15]([CH:23]2[C:17](=[O:25])[N:32]([CH3:14])[C:27](=[O:13])[N:34]([CH3:26])[C:30]2=[O:8])[C:19](=[N+:18]([O-:6])[O-:7])[c:20]2[cH:9][cH:28][c:12]([N+:33](=[O:29])[O-:31])[cH:3][c:24]21", "epd": [["LP-/Pi+", [8], [30, 8]], ["Pi-/Sigma+", [23, 30], [23, 15]], ["Pi-/Pi+", [15, 19], [19, 18]], ["Pi-/LP+", [18, 6], [6]]]}
{"reaction_name": "Paraformaldehyde addition", "rsmi": "[CH3:1][Mg:2][Br:4].[O:3]=[CH2:5]>>[Br-:4].[CH3:1][CH2:5][O-:3].[Mg+2:2]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 5]], ["Pi-/LP+", [3, 5], [3]], ["Sigma-/LP+", [2, 4], [4]]]}
{"reaction_name": "Reductive cleavage of benzyl esters", "rsmi": "[CH3:1][C:11](=[O:7])[O:10][CH2:9][c:13]1[cH:2][cH:4][cH:8][cH:5][cH:3]1.[H+:6].[H-:12]>>[CH3:1][C:11](=[O:7])[O:10][H:6].[cH:2]1[cH:4][cH:8][cH:5][cH:3][c:13]1[CH2:9][H:12]", "epd": [["LP-/Sigma+", [12], [9, 12]], ["Sigma-/LP+", [9, 10], [10]], ["LP-/Sigma+", [10], [6, 10]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[F:3][N+:10]([CH3:7])([CH3:8])[CH3:9].[H:1][CH:11]([C:4](=[O:2])[CH3:6])[CH3:5]>>[H:1][N+:10]([CH3:7])([CH3:8])[CH3:9].[O:2]=[C:4]([CH3:6])[CH:11]([F:3])[CH3:5]", "epd": [["Sigma-/Sigma+", [3, 10], [1, 10]], ["Sigma-/LP+", [1, 11], [11]], ["LP-/Sigma+", [11], [3, 11]]]}
{"reaction_name": "Cyanosilylation", "rsmi": "[C:1](#[N:8])[Si:9]([CH3:2])([CH3:3])[CH3:4].[O:5]=[CH:7][CH3:6]>>[C:1]([CH:7]([O:5][Si:9]([CH3:2])([CH3:3])[CH3:4])[CH3:6])#[N:8]", "epd": [["Pi-/Sigma+", [5, 7], [5, 9]], ["Sigma-/Sigma+", [1, 9], [1, 7]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[C:1]1(=[CH2:8])[N:19]([CH3:4])[c:15]2[cH:6][cH:10][cH:11][cH:7][c:14]2[N:20]1[CH3:5].[cH:2]1[cH:17][cH:3][c:9]2[c:18]([o+:12][c:16](-[c:26]3[cH:23][cH:21][cH:27][cH:22][cH:24]3)[cH:13][cH:25]2)[cH:28]1>>[c:1]1([CH2:8][CH:25]2[c:9]3[cH:3][cH:17][cH:2][cH:28][c:18]3[O:12][C:16]([c:26]3[cH:23][cH:21][cH:27][cH:22][cH:24]3)=[CH:13]2)[n+:19]([CH3:4])[c:15]2[cH:6][cH:10][cH:11][cH:7][c:14]2[n:20]1[CH3:5]", "epd": [["LP-/Pi+", [19], [1, 19]], ["Pi-/Sigma+", [8, 1], [8, 25]], ["Pi-/Pi+", [25, 13], [13, 16]], ["Pi-/LP+", [16, 12], [12]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[cH:7][cH:5][c:11]2[c:4]([cH:18]1)[CH:19]([Zn-:10]([Cl:8])[Cl:9])[CH:12]=[CH:6]2.[cH:2]1[cH:3][cH:15][cH:17][cH+:13][cH:16][cH:14]1>>[Cl:8][Zn:10][Cl:9].[cH:1]1[cH:7][cH:5][c:11]2[c:4]([cH:18]1)[CH:19]([CH:13]1[CH:16]=[CH:14][CH:2]=[CH:3][CH:15]=[CH:17]1)[CH:12]=[CH:6]2", "epd": [["Sigma-/Sigma+", [19, 10], [19, 13]]]}
{"reaction_name": "Addition to isocyanates", "rsmi": "[C:2](=[N:3][CH3:4])=[O:6].[O-:1][CH3:5]>>[O:1]([C:2](=[N:3][CH3:4])[O-:6])[CH3:5]", "epd": [["LP-/Sigma+", [1], [1, 2]], ["Pi-/LP+", [2, 6], [6]]]}
